US05663053
A mixture of 3,4-diphenylpyrazole (2.2 g), ethyl 8-bromooctanoate (5.5 g) and potassium carbonate (3.7 g) in dry butanone (50 ml) was heated at reflux temperature for 44 hours. The mixture was filtered and the flitrate evaporated to an oil which was chromatographed on silica gel (hexane/ethyl acetate). The oil obtained was heated at reflux temperature in a mixture of ethanol and 2N sodium hydroxide (1:1) for 1 hour. The ethanol was evaporated and the aqueous residue was acidified with dilute hydrochloric acid to pH 3, extracted with dichloromethane, dried over magnesium sulphate and evaporated to a solid..This was recrystallised from dichloromethane/ether to give 8-(3,4-diphenylpyrazol-1-yl)octanoic acid (0.48 g, 13%) as colourless crystals, m.p. 114°-5° C. Found: C, 76.02; H, 7.25; N, 7.63%; C23H26N2O2 requires: C, 76.21; H, 7.23; N. 7.73%

reactant | 3,4-diphenylpyrazole | 2.2 g | C1(=CC=CC=C1)C1=NNC=C1C1=CC=CC=C1 | C15H12N2
reactant | ethyl 8-bromooctanoate | 5.5 g | BrCCCCCCCC(=O)OCC | C10H19BrO2
reactant | potassium carbonate | 3.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | butanone | 50 ml | CC(CC)=O | C4H8O
solvent | ethanol | C(C)O | C2H6O
solvent | sodium hydroxide | 2N | [OH-].[Na+]
product | 8-(3,4-diphenylpyrazol-1-yl)octanoic acid | 0.48 g, 13% | C1(=CC=CC=C1)C1=NN(C=C1C1=CC=CC=C1)CCCCCCCC(=O)O | C23H26N2O2
